US07572820B2
5-Nitro-1-({5-[3-(trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}methyl)-1H-indazole
Synthesized as described in Example 4 using 5-nitro-1H-indazole and 5-[3(trifluoromethyl)phenyl]-3-(chloromethyl)-1,2,4-oxadiazole to afford a mixture of regioisomers. The following data are for the title regioisomer: 1H NMR (400 MHz, CDCl3) δ 8.75 (d, J=1.7 Hz, 1H), 8.34 (m, 2H), 8.27 (m, 2H), 7.84 (d, J=7.8 Hz, 1H), 7.65 (m, 2H), 5.83 (s, 2H); MS (ES) m/z 389 (M+).

reactant | 5-nitro-1H-indazole | [N+](=O)([O-])C=1C=C2C=NNC2=CC1 | C7H5N3O2
reactant | 5-[3(trifluoromethyl)phenyl]-3-(chloromethyl)-1,2,4-oxadiazole | FC(C=1C=C(C=CC1)C1=NC(=NO1)CCl)(F)F | C10H6ClF3N2O
product | 5-Nitro-1-({5-[3-(trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}methyl)-1H-indazole | [N+](=O)([O-])C=1C=C2C=NN(C2=CC1)CC1=NOC(=N1)C1=CC(=CC=C1)C(F)(F)F | C17H10F3N5O3
